datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(O)C[N:10](C)CC(C)O.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N:21]1[H:20]>>CCC(O)C[N+:10](C)(CC(C)O)[H:20].O=C1C=C(S(=O)(=O)[O-])NC(=O)[N-:21]1 10=20;20,21=21",
"CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O:21][H:20].Nc1cccc2c1ccc[n:10]2>>CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O-:21].Nc1cccc2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"Cc1nc(C)c(C)[n:10]c1C.NC(=O)N/N=C/c1ncnc2c1[nH]c[n+:21]2[H:20]>>Cc1nc(C)c(C)[n+:10]([H:20])c1C.NC(=O)N/N=C/c1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"CCCC[NH:10]CC(=O)Nc1c(C)cccc1C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH+:10](CC(=O)Nc1c(C)cccc1C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc(CCCC[NH2:10])nc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc(CCCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"CCC[NH:10]C(C)C(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC[NH+:10](C(C)C(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[N+](C)(C)c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@@H]1C[NH+:21]([H:20])[C@@H](C)CN1.Cc1cc([O-:10])cc(C)c1C#N>>C[C@@H]1C[NH:21][C@@H](C)CN1.Cc1cc([O:10][H:20])cc(C)c1C#N 10=20;20,21=21",
"Fc1ccc[n:10]c1.Oc1cnc[n+:21]([H:20])c1>>Fc1ccc[n+:10]([H:20])c1.Oc1cnc[n:21]c1 10=20;20,21=21",
"Cc1n[n+:21]([H:20])c2c(c1C)CCCC2.Clc1ccccc1C(c1ccccc1)=[NH:10]>>Cc1n[n:21]c2c(c1C)CCCC2.Clc1ccccc1C(c1ccccc1)=[NH+:10][H:20] 10=20;20,21=21",
"C#CCC[NH2:10].NNC(=O)c1cccc[n+:21]1[H:20]>>C#CCC[NH2+:10][H:20].NNC(=O)c1cccc[n:21]1 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH2+:21][H:20].CC[N:10](CC)CCC(=O)Nc1c(C)cccc1C>>CCCCCCCCCCCCCCCC[NH2:21].CC[N+:10](CC)(CCC(=O)Nc1c(C)cccc1C)[H:20] 10=20;20,21=21",
"C[C@H]([NH3+])[C@H](C)[NH2+:21][H:20].c1ccc(-c2ccnc3c2cc(-c2ccccc2)c2ccc[n:10]c23)cc1>>C[C@H]([NH3+])[C@H](C)[NH2:21].c1ccc(-c2ccnc3c2cc(-c2ccccc2)c2ccc[n+:10]([H:20])c23)cc1 10=20;20,21=21",
"Cc1c(C(=O)[O-])sc2cc(Cn3cc[n:10]c3)ccc12.O=C1Cc2cc([O:21][H:20])ccc21>>Cc1c(C(=O)[O-])sc2cc(Cn3cc[n+:10]([H:20])c3)ccc12.O=C1Cc2cc([O-:21])ccc21 10=20;20,21=21",
"CCC(C)(CC)[NH+:21](c1ccccc1)[H:20].CCCCCCCCC(=O)O[O-:10]>>CCC(C)(CC)[NH:21]c1ccccc1.CCCCCCCCC(=O)O[O:10][H:20] 10=20;20,21=21",
"NCC[NH+:21](CCc1ccccc1)[H:20].O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O-:10]>>NCC[NH:21]CCc1ccccc1.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O:10][H:20] 10=20;20,21=21",
"CSc1cccc[n:10]1.O=C(c1cc(Cl)co1)[O:21][H:20]>>CSc1cccc[n+:10]1[H:20].O=C(c1cc(Cl)co1)[O-:21] 10=20;20,21=21",
"Cc1[nH+]cc[n+:21]([H:20])c1C.Cc1cc([O-])[n:10]cn1>>Cc1[nH+]cc[n:21]c1C.Cc1cc([O-])[n+:10]([H:20])cn1 10=20;20,21=21",
"N#CCC[NH:10]c1ccccc1.Nc1ccc(S(=O)(=O)Nc2cccc[n+:21]2[H:20])cc1>>N#CCC[NH+:10](c1ccccc1)[H:20].Nc1ccc(S(=O)(=O)Nc2cccc[n:21]2)cc1 10=20;20,21=21",
"O=C(/C=N/[O:21][H:20])c1ccccc1.[NH3+]C1CC(=O)[N-:10]C1=O>>O=C(/C=N/[O-:21])c1ccccc1.[NH3+]C1CC(=O)[N:10]([H:20])C1=O 10=20;20,21=21",
"COc1ccc(CC(C)[NH2:10])cc1OC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(CC(C)[NH2+:10][H:20])cc1OC.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(C)cc3)o2)cc1.Oc1ccc([O-:10])c2cccnc12>>Cc1ccc(-c2c[n:21]c(-c3ccc(C)cc3)o2)cc1.Oc1ccc([O:10][H:20])c2cccnc12 10=20;20,21=21",
"CC(=O)N(N)C1CC[N:10](C)CC1.CCCCCC/C=N/[O:21][H:20]>>CC(=O)N(N)C1CC[N+:10](C)([H:20])CC1.CCCCCC/C=N/[O-:21] 10=20;20,21=21",
"CC[N+:21](CC)(CCC(OC(=O)c1ccccc1)c1ccccc1)[H:20].Oc1c(Cl)cc(Cl)c2ccc[n:10]c12>>CC[N:21](CC)CCC(OC(=O)c1ccccc1)c1ccccc1.Oc1c(Cl)cc(Cl)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH2:10].Cc1c(C(=O)[O:21][H:20])cccc1[N+](=O)[O-]>>CC(C)C(C(=O)[O-])[NH2+:10][H:20].Cc1c(C(=O)[O-:21])cccc1[N+](=O)[O-] 10=20;20,21=21",
"Cc1ncc(C(=O)[O:21][H:20])s1.O=C([O-])CN(CC(=O)[O-:10])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O>>Cc1ncc(C(=O)[O-:21])s1.O=C([O-])CN(CC(=O)[O:10][H:20])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O 10=20;20,21=21",
"CCOC(=O)CCCc1cccc[n:10]1.Cc1ncc[n+:21]([H:20])c1C>>CCOC(=O)CCCc1cccc[n+:10]1[H:20].Cc1ncc[n:21]c1C 10=20;20,21=21",
"C=CCN(CC=C)CCC[N+:21](CC=C)(CC=C)[H:20].COCC1=C(C(=O)[O-:10])CCC1>>C=CCN(CC=C)CCC[N:21](CC=C)CC=C.COCC1=C(C(=O)[O:10][H:20])CCC1 10=20;20,21=21",
"C=CCC(C)(C[N:10](CC)CC)OC(=O)CCC.O=C(Cc1nnn[nH]1)[O:21][H:20]>>C=CCC(C)(C[N+:10](CC)(CC)[H:20])OC(=O)CCC.O=C(Cc1nnn[nH]1)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Cn1cncc1CC(NC(=O)CC[NH2:10])C(=O)[O-]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Cn1cncc1CC(NC(=O)CC[NH2+:10][H:20])C(=O)[O-] 10=20;20,21=21",
"Ic1ccc2cc([O-:10])ccc2c1.N#Cc1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1>>Ic1ccc2cc([O:10][H:20])ccc2c1.N#Cc1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1 10=20;20,21=21",
"CCCC[NH:10]CCN.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCC[NH+:10](CCN)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
